US03954754
EXAMPLE 37: 5,6,7,8-Tetrahydro-3-(1-methylhydrazino)-6-pyrido[4,3-c]pyridazinecarboxylic acid ethyl ester
72.6 g of 3-chloro-5,6,7,8-tetrahydro-6-pyrido[4,3-c]pyridazinecarboxylic acid ethyl ester are heated at reflux in 300 cc of methylhydrazine at a bath temperature of 110° for 1 hour while stirring, and the mixture is concentrated, the residue divided between chloroform and water and after concentrating the chloroform phase the title compound is obtained, M.P. 121°-123° (dec., from dimethoxyethane).

reactant | 3-chloro-5,6,7,8-tetrahydro-6-pyrido[4,3-c]pyridazinecarboxylic acid ethyl ester | 72.6 g | C(C)OC(=O)N1CC2=C(N=NC(=C2)Cl)CC1 | C10H12ClN3O2
reactant | dimethoxyethane | C(OC)COC | C4H10O2
reactant | methylhydrazine | 300 cc | CNN | CH6N2
product | 5,6,7,8-Tetrahydro-3-(1-methylhydrazino)-6-pyrido[4,3-c]pyridazinecarboxylic acid ethyl ester | C(C)OC(=O)N1CC2=C(N=NC(=C2)N(N)C)CC1 | C11H17N5O2
